US05864039
4-Amino-N-(4-((3R)-3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-5-chloro-2-methoxybenzamide (2.28 g) was dissolved in 4N hydrochloric acid-dioxane solution (10 ml) and the mixture was stood at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure. Dimethylformamide (30 ml) was added to the residue and the mixture was neutralized with triethylamine (2.23 ml). 4-Amino-5-chloro-2-methoxybenzoic acid (1.07 g) and 1-hydroxybenzotriazole (0.79 g) were added thereto, and the mixture was stirred at 0° C. for 15 min. Then, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.12 g) was added, and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure. Aqueous potassium carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.60 g of 4-amino-N-((3R)-1-(4-(4-amino-5-chloro-2-methoxybenzoyl-amino)butyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(4-((3R)-3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-5-chloro-2-methoxybenzamide | 2.28 g | NC1=CC(=C(C(=O)NCCCCN2C[C@H](CC2)CNC(=O)OC(C)(C)C)C=C1Cl)OC | C22H35ClN4O4
solvent | hydrochloric acid dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 4-amino-N-((3R)-1-(4-(4-amino-5-chloro-2-methoxybenzoyl-amino)butyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide | 0.60 g | NC1=CC(=C(C(=O)NC[C@@H]2CN(CC2)CCCCNC(C2=C(C=C(C(=C2)Cl)N)OC)=O)C=C1Cl)OC | C25H33Cl2N5O4
